US06645968B2
N-cyano-N′-(3-pyridinyl)thiourea
A solution of cyanamide (352 mg, 8.40 mmol) in THF (20 mL) at 0° C. was treated with sodium hydride (211 mg of 95% reagent, 8.80 mmol). The slurry was stirred for 30 minutes at 0° C. and treated with a solution of 3-pyridyl isothiocyanate (1.12 g, 8.20 mmol) in THF (8 mL). The cooling bath was removed, and the reaction mixture was stirred for 30 minutes. The reaction was quenched with water (15 mL), poured into ethyl acetate (40 mL), and partitioned. The organic phase was washed with brine (10 mL), dried (Na2SO4), filtered, and concentrated. The residue was dissolved in diethyl ether, treated with HCl (2M solution in diethyl ether), and the resulting precipitate was collected providing 1.06 g of the desired product as an off-white solid.

reactant | cyanamide | 8.40 mmol, 352 mg | N#CN | CH2N2
reactant | sodium hydride | 8.80 mmol, 211 mg | [H-].[Na+]
reactant | 3-pyridyl isothiocyanate | 8.20 mmol, 1.12 g | N1=CC(=CC=C1)N=C=S | C6H4N2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-cyano-N′-(3-pyridinyl)thiourea | 1.06 g | C(#N)NC(=S)NC=1C=NC=CC1 | C7H6N4S
